US07479502B2
A 100 mL round-bottom flask was charged with 5-bromo-3-formyl-4-methoxy-benzenesulfonamide (586 mg, 2.0 mmol) dissolved in dichloromethane (40 mL) and the solution was stirred vigorously while triethylamine (252 mg, 2.50 mmol) was added, followed by acetic anhydride (224 mg, 2.2 mmol) and a catalytic amount of N,N-dimethylaminopyridine. The mixture was stirred for 1 hour and then concentrated by evaporation. The residue was partitioned between 5% citric acid and ethyl acetate. The organic layer was separated, washed with water and brine and dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give N-acetyl-5-bromo-3-formyl-4-methoxybenzenesulfonamide (616 mg) as a white solid.

reactant | 5-bromo-3-formyl-4-methoxy-benzenesulfonamide | 2.0 mmol, 586 mg | BrC=1C(=C(C=C(C1)S(=O)(=O)N)C=O)OC | C8H8BrNO4S
reactant | triethylamine | 2.50 mmol, 252 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 2.2 mmol, 224 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | N-acetyl-5-bromo-3-formyl-4-methoxybenzenesulfonamide | 616 mg | C(C)(=O)NS(=O)(=O)C1=CC(=C(C(=C1)Br)OC)C=O | C10H10BrNO5S
